US09193728B2
Preparation of 3,4-dihydro-2H-benzo[b][1,4]oxazine
A mixture of 2-aminophenol (5 g, 45.87 mmol), 1,2-dibromoethane (4.3 g, 22.93 mmol), and K2CO3 (15.8 g, 114.67 mmol) in THF (30 mL) was heated at 100° C. for 16 h. After completion of reaction, water was added and extracted with EtOAc. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The reaction mixture was purified by column chromatography (using 100-200 mesh size silica, the desired product was eluted at 15% EtOAc in hexane) to obtained 1 g of desired product.

reactant | 2-aminophenol | 45.87 mmol, 5 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 1,2-dibromoethane | 22.93 mmol, 4.3 g | BrCCBr | C2H4Br2
reactant | K2CO3 | 114.67 mmol, 15.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3,4-dihydro-2H-benzo[b][1,4]oxazine | 1 g | O1C2=C(NCC1)C=CC=C2 | C8H9NO
